US05719141
m) 3-Tert-butoxycarbonyl-2,2-dimethyl-4(S)-(3-hydroxy-2,2-dimethylpropyl)-1,3-oxazolidine
A solution of 85.5 g of methyl 3-[3-tert-butoxycarbonyl-2,2-dimethyl-1,3-oxazolidine-4(S)-yl]-2,2-dimethyl-propionate in 300 ml of tetrahydrofuran is added to a suspension of 22 g of lithium aluminium hydride in 700 ml of tetrahydrofuran at -10° C. and the mixture is then stirred at 0° C. for 30 min. Thereafter, 22 ml of water, 22 ml of a 5N sodium hydroxide solution and 66 ml of water are added dropwise in succession at 0° C. and the mixture is subsequently stirred for 30 min. The suspension is filtered over Hyflo® and evaporated. After drying with sodium sulfate in methylene chloride, the title compound is obtained in the pure form: white crystals; mp. 45°-6° C.; Rf (A)=0.53, Rf (D)=0.18; [α]D =+52.8 (c=0.91 in CHCl3); FAB-MS: (M+H)+ =288; anal. calc. for C15H29NO4 : C 62.69%, H 10.17%, N 4.87%; found C 62.88%, H 10.11%, N 4.86%.

reactant | methyl 3-[3-tert-butoxycarbonyl-2,2-dimethyl-1,3-oxazolidine-4(S)-yl]-2,2-dimethyl-propionate | 85.5 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC(C(=O)OC)(C)C)(C)C | C16H29NO5
reactant | lithium aluminium hydride | 22 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 22 ml | O | H2O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | water | 66 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 3-Tert-butoxycarbonyl-2,2-dimethyl-4(S)-(3-hydroxy-2,2-dimethylpropyl)-1,3-oxazolidine | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC(CO)(C)C)(C)C | C15H29NO4
